US08309059B2
5-((1E,3E,5E)-5-(1,1-Dimethyl-5,6-dihydro-1H-pyrrolo[3,2,1-ij]quinolin-2(4H)-ylidene)penta-1,3-dienyl)-6-(6-hydroxyhexyl)-6-methyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium chloride.
A mixture of 5,6,6-trimethyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium acetate (1.35 g, 6.29 mmol) and malonaldehyde bis(phenylimine)monohydrochloride (1.63 g, 6.29 mmol) in 10 mL acetic anhydride and 10 mL acetic acid were refluxed for 2 hours. The reaction mixture was then cooled to room temperature at which point the volatiles were removed under reduced pressure. The resulting oil was diluted with CH2Cl2, washed with 2M HCl (aqueous), dried over Na2SO4 and concreted to give a brown solid that was combined with 6-(6-hydroxyhexyl)-5,6-dimethyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium chloride (1.84 g, 5.73 mmol) in 20 mL acetic anhydride. To this stirring solution was added 5 mL triethylamine. The reaction was heated to 90° C. for 1 hour and then cooled to room temperature. The volatiles were concentrated under reduced pressure to give a dark oil. This oil was refluxed for 3 hours in 70 mL ACN and 70 mL 1 M HCl. The reaction mixture was concentrated to 50 mL and extracted with CH2Cl2. The separated organic phase was dried over Na2SO4 and concentrated to give a blue solid that was purified by silica gel flash chromatography affording the product (2.14 g, 73.7%) as a black solid. 1H-NMR (300 MHz, d6DMSO): δ 8.34 (m, 2H), 7.15 (m, 6H), 6.48 (t, 2H), 6.61 (m, 2H), 4.00 (s, 4H), 3.32 (m, 9H), 2.81 (s, 4H), 2.10 (m, 4H), 1.67 (s, 9H), 1.11 (m, 4H) ppm; MS m/z calculated for C36H45N2O2 (M+): 521.4. Found 521.5 (M+, ESI+).

reactant | 5,6,6-trimethyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium acetate | 6.29 mmol, 1.35 g | C(C)(=O)[O-].CC1=C[NH+]2C3=C(C=CC=C3C1(C)C)CC2
reactant | malonaldehyde bis(phenylimine)monohydrochloride | 6.29 mmol, 1.63 g | Cl.C1(=CC=CC=C1)N=CCC=NC1=CC=CC=C1
reactant | 6-(6-hydroxyhexyl)-5,6-dimethyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium chloride | 5.73 mmol, 1.84 g | [Cl-].OCCCCCCC1(C(=C[NH+]2C3=C(C=CC=C13)CC2)C)C
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ACN | 70 mL | C(C)#N | C2H3N
solvent | HCl | 1 M, 70 mL | Cl | ClH
product | 5-((1E,3E,5E)-5-(1,1-Dimethyl-5,6-dihydro-1H-pyrrolo[3,2,1-ij]quinolin-2(4H)-ylidene)penta-1,3-dienyl)-6-(6-hydroxyhexyl)-6-methyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium chloride | 2.14 g, 73.7% | [Cl-].CC1(/C(/N2CCCC3=CC=CC1=C23)=C\C=C\C=C\C2=C[NH+]3C1=C(C=CC=C1C2(C)CCCCCCO)CC3)C | InChI=1S/C36H44N2O.ClH/c1-35(2)30-18-11-14-27-16-13-23-38(34(27)30)32(35)20-8-6-7-17-29-26-37-24-21-28-15-12-19-31(33(28)37)36(29,3)22-9-4-5-10-25-39;/h6-8,11-12,14-15,17-20,26,39H,4-5,9-10,13,16,21-25H2,1-3H3;1H/b8-6+,17-7+,32-20+;
